US06780996B2
Following the procedure used to prepare Example 27, 150 mg (0.34 mmol) of 4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile is reacted with 238 mg (2.05 mmol) of N, N, N′-trimethyl-1,3-propanediamine in 1 mL of 1-methyl-2-pyrrolidinone at 105° C. for 16 hours to yield 121 mg of 4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)-phenylamino]-7-{[3-(dimethyl)aminopropyl]-methylamino}-6-methoxyquinoline-3-carbonitrile as a tan solid, mp 196-201° C.

reactant | 4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile | 0.34 mmol, 150 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C21H15ClFN5OS
reactant | N, N, N′-trimethyl-1,3-propanediamine | 2.05 mmol, 238 mg | CN(CCCNC)C | C6H16N2
solvent | 1-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)-phenylamino]-7-{[3-(dimethyl)aminopropyl]-methylamino}-6-methoxyquinoline-3-carbonitrile | 121 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)N(C)CCCN(C)C)C#N | C27H30ClN7OS
